US04081537
At -20° C., 6 ml. of concentrated nitric acid is added dropwise to 8.0 g. of 15α-hydroxy-18-methyl-4-estrene-3,17-dione in 60 ml. of acetic anhydride. After 1 hour, the reaction solution is introduced into ice/water. The thus-precipitated product is vacuum-filtered, washed several times with water, taken up in methylene chloride, and dried over sodium sulfate. After chromatographing the crude product on silica gel with acetone-hexane, 6.4 g. of 18-methyl-15α-nitrooxy-4-estrene-3,17-dione is produced.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 15α-hydroxy-18-methyl-4-estrene-3,17-dione | O[C@H]1CC([C@]2(CC)[C@@H]1[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)=O | C19H26O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 18-methyl-15α-nitrooxy-4-estrene-3,17-dione | CC[C@@]12C(C[C@@H]([C@H]1[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)O[N+](=O)[O-])=O | C19H25NO5
